US06509328B1
4-[3-(2,4-Dimethyl-imidazol-1-yl)-phenyl]-8-(2-fluoro-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
Prepared from (3-{3-[3-(2,4-dimethyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example K70) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (92 mg).

reactant | (3-{3-[3-(2,4-dimethyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C1=CC(=CC=C1)N1C(=NC(=C1)C)C)=O)=O | C31H31FN4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(2,4-Dimethyl-imidazol-1-yl)-phenyl]-8-(2-fluoro-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 92 mg | CC=1N(C=C(N1)C)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C2=C(C=CC=C2)F | C26H21FN4O
